US03966736
A mixture of 6,11-dihydro-11-[(dimethylamino)acetyl]-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one (0.14 mole), phosphorus pentasulfide (0.155 mole) and 1200 ml. of pyridine is heated at reflux temperature for 24 hours and the pyridine is then evaporated. Methylene chloride and water are added, and the organic layer is separated (some solid is present), washed with aqueous sodium bicarbonate until only a trace of solid is present, then with saturated salt solution, dried over anhydrous magnesium sulfate and evaporated. Trituration of the residue with methanol gives a solid which after crystallization from methylene chloride-methanol gives the product 6,11-dihydro-11-[(dimethylamino)acetyl]-5H-pyrido[2,3-b][1,5]benzodiazepin-5-thione.

reactant | 6,11-dihydro-11-[(dimethylamino)acetyl]-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one | 0.14 mole | CN(C)CC(=O)N1C2=C(C(NC3=C1C=CC=C3)=O)C=CC=N2 | C16H16N4O2
reactant | phosphorus pentasulfide | 0.155 mole | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 6,11-dihydro-11-[(dimethylamino)acetyl]-5H-pyrido[2,3-b][1,5]benzodiazepin-5-thione | CN(C)CC(=O)N1C2=C(C(NC3=C1C=CC=C3)=S)C=CC=N2 | C16H16N4OS
